US06451811B2
N-(4-Chlorobenzyl)-6-iodo-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide (700 mg), palladium acetate (32 mg), DPPP (60 mg), ethanol (10 mL) and triethylamine (1 mL) are dissolved in DMF (20 mL) in a steel bomb. The bomb is flushed with CO (3×) and then pressured with CO (400 psi) and the resulting reaction is stirred at 80° C. for 24 h, cooled to room temperature and diluted with CH2Cl2. The organic is washed with water, 1N HCl, brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography (CH2Cl2/MeOH 1/0, 45/1) and then triturated with MeOH to afford 472 mg (76%) of ethyl 6-{[(4-chlorobenzyl)amino]carbonyl}-2-methoxy-8-methyl-5-oxo-5,8-dihydro[1,8]naphthyridine-3-carboxylate. Physical characteristics are as follows: 1H NMR (CDCl3) δ 10.26-10.23, 9.18, 8.85, 7.32, 4.65, 4.40, 4.19, 4.00, 1.41; 13C NMR (CDCl3) δ 176.33, 164.24, 163.76, 163.28, 150.17, 148.34, 142.24, 137.17, 132.94, 129.00, 128.73, 116.32, 113.96, 113.29, 61.57, 55.17, 42.86, 39.17, 14.24; IR (diffuse reflectance) 1965, 1727, 1663, 1609, 1568, 1542, 1514, 1493, 1466, 1390, 1297, 1260, 1141, 813, 799, cm−1; MS (EI) m/z 429 (M+), 431, 430, 429, 289, 263, 262, 261, 159, 140, 77; Anal. calcd for C21H20ClN3O5: C, 58.68; H, 4.69; N, 9.77; Cl, 8.25. Found: C, 58.39; H, 4.70; N, 9.71.

reactant | N-(4-Chlorobenzyl)-6-iodo-7-methoxy-1-methyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 700 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=NC(=C(C=C3C2=O)I)OC)C)C=C1 | C18H15ClIN3O3
reactant | DPPP | 60 mg | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 32 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl 6-{[(4-chlorobenzyl)amino]carbonyl}-2-methoxy-8-methyl-5-oxo-5,8-dihydro[1,8]naphthyridine-3-carboxylate | 472 mg, 76% | ClC1=CC=C(CNC(=O)C=2C(C=3C=C(C(=NC3N(C2)C)OC)C(=O)OCC)=O)C=C1 | C21H20ClN3O5
